US05912244
2,4-Dihydroxypyridine (3.0 g) was dissolved in 2N aqueous sodium hydroxide solution (30 ml) and dimethyl sulphate (3.7 g) was added dropwise over 90 minutes. The mixture was stirred at room temperature overnight, acidified with concentrated hydrochloric acid, the solvent removed under reduced pressure, the residue stirred in 5% methanol/dichloromethane and filtered. The filtrate was evaporated and the crude product was chromatographed on silica using 7:93 methanol: dichloromethane as the eluent to yield 1,2-dihydro-4-hydroxy-1-methyl-2-oxopyridine (0.77 g) as a yellow solid. m.p. 165-169° C. Found: C,57.28; H,5.47; N,10.89. C6H7NO2 requires C,57.59; H,5.64; N,11.19%.

reactant | 2,4-Dihydroxypyridine | 3.0 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | dimethyl sulphate | 3.7 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | 1,2-dihydro-4-hydroxy-1-methyl-2-oxopyridine | 0.77 g | OC1=CC(N(C=C1)C)=O | C6H7NO2
